US05346911
(±)-1-Azabicylo[2.2.1]heptan-3-one oxime hydrochloride
1-Azabicyclo[2.2.1]heptan-3-one (2 g, 18 mmol) and hydroxylamine hydrochloride (1.25 g, 18 mmol) were dissolved in 10 mL MeOH and stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo. The crystalline residue was recrystallized from ethanol to afford 2.04 g (70%) of the title product, mp 211° C.

reactant | 1-Azabicyclo[2.2.1]heptan-3-one | 18 mmol, 2 g | N12CC(C(CC1)C2)=O | C6H9NO
reactant | hydroxylamine hydrochloride | 18 mmol, 1.25 g | Cl.NO
solvent | MeOH | 10 mL | CO | CH4O
product | (±)-1-Azabicylo[2.2.1]heptan-3-one oxime hydrochloride | 2.04 g, 70% | Cl.N12CC(C(CC1)C2)=NO | InChI=1S/C6H10N2O.ClH/c9-7-6-4-8-2-1-5(6)3-8;/h5,9H,1-4H2;1H
